US07338967B2
To a solution of 43 mg (0.10 mmol) of 5-(3-chlorophenyl)-3-(2,4-dichlorophenyl)-4-[(3-pyridyl)hydroxymethyl]isoxazole in 2 mL of pyridine was added 19 μL (0.20 mmol) of acetic anhydride. The reaction was stirred overnight at room temperature, and then the pyridine was removed under vacuum. The residue was taken up in ethyl acetate, washed with saturated sodium chloride, and the ethyl acetate fraction dried over magnesium sulfate. The drying agent was filtered off, and the ethyl acetate was removed by rotoevaporation. The crude product was purified by preparative thin layer chromatography (prep TLC) to give 35 mg (0.074 mmol) of 5-(3-chlorophenyl)-3-(2,4-dichlorophenyl)-4-[(3-pyridyl)acetoxymethyl]isoxazole.

reactant | 5-(3-chlorophenyl)-3-(2,4-dichlorophenyl)-4-[(3-pyridyl)hydroxymethyl]isoxazole | 0.10 mmol, 43 mg | ClC=1C=C(C=CC1)C1=C(C(=NO1)C1=C(C=C(C=C1)Cl)Cl)C(O)C=1C=NC=CC1 | C21H13Cl3N2O2
reactant | acetic anhydride | 0.20 mmol, 19 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 5-(3-chlorophenyl)-3-(2,4-dichlorophenyl)-4-[(3-pyridyl)acetoxymethyl]isoxazole | 0.074 mmol, 35 mg | ClC=1C=C(C=CC1)C1=C(C(=NO1)C1=C(C=C(C=C1)Cl)Cl)COC(CC=1C=NC=CC1)=O | C23H15Cl3N2O3
